US08222249B2
In a microwave vial fitted with a stir bar, 1-(3-chloro-4-methyl-phenyl)-2-methyl-isothiourea hydroiodide (597 mg, 1.74 mmol), 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (560 mg, 1.52 mmol), and DIEA (1.1 mL, 6.06 mmol) were combined in anhydrous DMF (5 mL). The vial was sealed and irradiated in a microwave for 30 min at 120° C. To the reaction mixture was added an additional 100 mg of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate and the reaction was irradiated for 30 min at 120° C. This process was repeated twice more to consume all of the 1-(3-chloro-4-methyl-phenyl)-2-methyl-isothiourea hydroiodide starting material as it was found co-elute with the desired product on LCMS. The reaction mixture was acidified with acetic acid and the volatiles were evaporated in vacuo. The residue was dissolved in minimal DMF, filtered, and purified using C-18 preparatory HPLC. To the combined fractions containing the desired product, 1 N HCl was added and the solvents removed in vacuo. The obtained white solid was dissolved in minimal water and lyophilized to give 180 mg (27% yield) of N-(3-chloro-4-methyl-phenyl)-N′-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-guanidine hydrochloride: HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 ml/min, 240 nm, 20/80 CH3CN/0.1% H3PO4, 3.73 min (97.4%); mp: >400° C.; 1H NMR (DMSO-d6) δ 1.91-2.09 (m, 1H, CHH), 2.33 (s, 3H, CH,), 2.41 (dd, J=4.3, 13.2 Hz, 1H, CHH), 2.54-2.68 (m, 1H, CHH), 2.80-3.05 (m, 1H, CHH), 4.21-4.56 (m, 2H, CH2), 4.66 (d, J=5.7 Hz, 2H, CH2), 5.13 (dd, J=4.9, 13.2 Hz, 1H, CH), 7.14 (dd, J=1.9, 8.1 Hz, 1H, Ar), 7.34 (d, J=1.9 Hz, 1H, Ar), 7.42 (d, J=8.1 Hz, 1H, Ar), 7.51 (d, J=7.9 Hz, 1H, Ar), 7.61 (s, 1H, Ar), 7.76 (d, J=7.7 Hz, 1H, Ar), 7.98 (br. s., 1H, NH), 8.62 (br. s., 1H, NH), 10.16 (s, 1H, NH), 11.00 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.04, 24.19, 32.95, 46.33, 49.85, 54.03, 124.13, 125.48, 125.79, 127.28, 129.17, 132.57, 134.20, 135.82, 135.95, 136.64, 143.17, 144.68, 156.84, 170.94, 173.00, 175.82; LCMS: MH=440, 442; Anal Calcd for C22H23Cl2N5O3+2.3 H2O+1.9 HCl+0.2 HCOOH: C, 44.72; H, 5.05; N, 11.74; Cl, 23.19; Found: C, 44.55; H, 4.71; N, 11.48; Cl, 22.92.

reactant | 1-(3-chloro-4-methyl-phenyl)-2-methyl-isothiourea hydroiodide | 1.74 mmol, 597 mg | I.ClC=1C=C(C=CC1C)NC(SC)=N
reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.52 mmol, 560 mg | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | DIEA | 6.06 mmol, 1.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 100 mg | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(3-chloro-4-methyl-phenyl)-N′-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-guanidine hydrochloride | 180 mg, 27% yield | Cl.ClC=1C=C(C=CC1C)NC(=N)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | InChI=1S/C22H22ClN5O3.ClH/c1-12-2-4-15(9-17(12)23)26-22(24)25-10-13-3-5-16-14(8-13)11-28(21(16)31)18-6-7-19(29)27-20(18)30;/h2-5,8-9,18H,6-7,10-11H2,1H3,(H3,24,25,26)(H,27,29,30);1H
